US04853384
A stirred suspension of sodium hydride (60% in oil, 2.0 g) in 50 ml of dimethylformamide was treated with a solution of 9.8 g of 1-acetyl-4-hydroxy-4-phenylpiperidine in 80 ml of dimethylformamide and then heated at 70° C. for 1 hour. After cooling to room temperature a solution of 8.06 g of 4-fluorobenzotrifluoride in 20 ml of dimethylformamide was added dropwise and the reaction allowed to proceed for 25 hours. The reaction mixture was then poured into 400 ml of ice water and the aqueous suspension extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate, filtered, and concentrated to an oil. High pressure liquid chromatography of the oil (silica gel; elution with a 10% solution of ethyl acetate in dichloromethane) afforded 5.3 g of 1-acetyl-4-phenyl-4-(4-trifluoromethylphenoxy)piperidine, m.p. 96°-100° C.

reactant | sodium hydride | 2.0 g | [H-].[Na+]
reactant | 1-acetyl-4-hydroxy-4-phenylpiperidine | 9.8 g | C(C)(=O)N1CCC(CC1)(C1=CC=CC=C1)O | C13H17NO2
reactant | 4-fluorobenzotrifluoride | 8.06 g | FC1=CC=C(C=C1)C(F)(F)F | C7H4F4
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-acetyl-4-phenyl-4-(4-trifluoromethylphenoxy)piperidine | 5.3 g | C(C)(=O)N1CCC(CC1)(OC1=CC=C(C=C1)C(F)(F)F)C1=CC=CC=C1 | C20H20F3NO2
